US07915250B2
To a solution of 1,1-dimethylethyl 3-methylideneazetidine-1-carboxylate (2.96 g, 17.5 mmol) in chloroform (180 mL) was added 3-chloroperoxybenzoic acid (77%, 13.9 g, 62.0 mmol), and the resulting mixture was stirred at room temperature for 2 days. The reaction mixture was quenched with a 1:1 mixture (150 mL) of 10% sodium thiosulfate and saturated sodium bicarbonate solutions. The organic portion was isolated, dried over sodium sulfate, filtered and concentrated to give an oily residue which was then purified by flash chromatography (15-50% ethyl acetate-hexanes) to give 1,1-dimethylethyl 1-oxa-5-azaspiro[2.3]hexane-5-carboxylate (1.65 g, 51%), GC-MS for C9H15NO3: 185.

reactant | 1,1-dimethylethyl 3-methylideneazetidine-1-carboxylate | 17.5 mmol, 2.96 g | C=C1CN(C1)C(=O)OC(C)(C)C | C9H15NO2
reactant | 3-chloroperoxybenzoic acid | 62.0 mmol, 13.9 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 180 mL | C(Cl)(Cl)Cl | CHCl3
product | 1,1-dimethylethyl 1-oxa-5-azaspiro[2.3]hexane-5-carboxylate | 1.65 g, 51% | O1CC12CN(C2)C(=O)OC(C)(C)C | C9H15NO3
